US04552985
Preparation of 2-methoxymethyl-2-hydroxymethylpropanal
22 g of triethylamine are added to a mixture of 590 g of methanol, 330 g of 30% strength formaldehyde solution and 210 g of methacrolein in the course of 10 minutes, and the solution is kept at the boiling point for 8 hours. The low-boiling components are separated off, after which 312 g (=78% yield, based on methacrolein) of the title compound of boiling point 120°-125° C./24 mbar are isolated by distillation under reduced pressure.

reactant | triethylamine | 22 g | C(C)N(CC)CC | C6H15N
reactant | formaldehyde | C=O | CH2O
reactant | methacrolein | 210 g | O=CC(C)=C | C4H6O
reactant | methanol | 590 g | CO | CH4O
product | 2-methoxymethyl-2-hydroxymethylpropanal | 78% yield | COCC(C=O)(C)CO | C6H12O3
